US04137273
To a solution of 20.9 g. of the ethylene ketal of 1-bromo-4-pentanone (obtained by treating 1-bromo-4-pentanone with ethylene glycol in benzene in the presence of p-toluenesulfonic acid) in 100 ml. of benzene is added 20 g. of triphenylphosphine. The mixture is heated at reflux temperature for two hours and then filtered. The solid material thus-collected is washed with benzene, dried in vacuo and added to 6.49 g. of butyl lithium in 50 ml. of dimethylsulfoxide. The mixture is stirred until an orange solution is obtained and 38 g. of methyl ethyl ketone is then added. The mixture is stirred at about 25° for about eight hours, poured into water and then extracted with ether. The ethereal phase is concentrated and the concentrate added to 0.1N solution of hydrochloric acid in aqueous acetone and stirred for about 15 hours. The mixture is then poured into ice water and extracted with ethyl acetate. The extracts are combined, washed with water, dried over sodium sulfate and evaporated to yield 6-methyl-5-octen-2-one which is purified by chromatography and separated into the cis and trans isomer.

reactant | 1-bromo-4-pentanone | BrCCCC(C)=O | C5H9BrO
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 6-methyl-5-octen-2-one | CC(=CCCC(C)=O)CC | C9H16O
